US05214037
To a solution of 7β-[2-(2-t-butoxycarbonylaminothiazol -4-yl)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (779 mg : 0.784 mMol.) in a mixture of anisole (3 ml) and nitromethane (12 ml) at -40° C. is added a solution of aluminum chloride (0.83 g : 6.24 mMol.) in anisole (3 ml), and the mixture is stirred at -30° to -40° C. for 50 minutes. The reaction mixture is mixed with 1N-hydrochloric acid (6.3 ml), diluted with water, washed with ethyl acetate, and concentrated under reduced pressure to remove the remaining organic solvents. The residual solution is subjected to the chromatography over styrene-divinylbenzene copolymer (methanol : water=4:1) and resulting powder is washed with ethyl acetate to give 7β-[2- (2-aminothiazol-4yl)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem -4-carboxylic acid (225 mg) as white powder. Yield: 59%.

reactant | 7β-[2-(2-t-butoxycarbonylaminothiazol -4-yl)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 0.784 mMol, 779 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C52H47N7O6S4
reactant | aluminum chloride | 6.24 mMol, 0.83 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 6.3 ml | Cl | ClH
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | O | H2O
product | 7β-[2- (2-aminothiazol-4yl)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem -4-carboxylic acid | 225 mg, Yield: 59% | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O | C15H15N7O4S4
